US06982274B2
3-Phenyl-1H-5-indazolecarbonitrile
To a solution of 300 mg of tert-butyl 3-bromo-5-cyano-1H-1-indazolecarboxylate produced in Production Example I-14-b in 10 ml dimethylformamide were added 376 mg of tri-n-butyl(phenyl)tin and 54 mg of tetrakis(triphenylphosphine)palladium(0), and the mixture was stirred at 150° C. for 45 minutes. After removing the solvent by distillation, the residue was dissolved in 1.5 ml of ethyl acetate and the mixture was adsorbed by 1.5 g of silica gel. The crude product was purified and separated by silica gel column chromatography (ethyl acetate:toluene=3:97 to 1:19) and the resulting amorphous powder was crystallized from diisopropyl ether, to give 117 mg of the title compound as pale yellow crystals.

reactant | tert-butyl 3-bromo-5-cyano-1H-1-indazolecarboxylate | 300 mg | BrC1=NN(C2=CC=C(C=C12)C#N)C(=O)OC(C)(C)C | C13H12BrN3O2
reactant | tri-n-butyl(phenyl)tin | 376 mg | C(CCC)[Sn](C1=CC=CC=C1)(CCCC)CCCC
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
catalyst | tetrakis(triphenylphosphine)palladium(0) | 54 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-Phenyl-1H-5-indazolecarbonitrile | 117 mg | C1(=CC=CC=C1)C1=NNC2=CC=C(C=C12)C#N | C14H9N3
